US09402841B2
Step C: (S)-tert-butyl 3-((7-fluoro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
To a mixture of (S)-tert-butyl 3-((3-cyano-7-fluoroisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate (350 mg, 1 mmol) in MeOH (10 mL) was added NH2NH2—H2O (10 mL). The reaction mixture was heated to reflux for 2 hours. The solvent was removed to give the title compound as white solid, which was used without further purification (350 mg, 92%). ESI-MS m/z [M+H]+ 389.2.

reactant | (S)-tert-butyl 3-((3-cyano-7-fluoroisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 1 mmol, 350 mg | C(#N)C=1N=C(C2=CC(=CC=C2C1)F)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C19H21FN4O2
reactant | NH2NH2—H2O | 10 mL | NN.O
solvent | MeOH | 10 mL | CO | CH4O
product | (S)-tert-butyl 3-((7-fluoro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | FC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(=N)NN | C19H25FN6O2
